simulator lang=spectre
global 0

ahdl_include "./dut/deadband_voltage.va"

Vin (sigin 0) vsource type=pwl wave=[0 -0.7 0.8n -0.7 0.85n -0.1 1.6n -0.1 1.65n 0.15 2.4n 0.15 2.45n 0.8 3.2n 0.8]
XDUT (sigin sigout) deadband_voltage

simulatorOptions options evas_profile=balanced

tran tran stop=3.0n maxstep=5p
save sigin sigout
