simulator lang=spectre
global 0

ahdl_include "./dut/differential_gain_driver.va"

Vp (sigin_p 0) vsource type=pwl wave=[0 0.35 10n 0.35 10.1n 0.45 20n 0.45 20.1n 0.60 35n 0.60]
Vn (sigin_n 0) vsource dc=0.45
Vref (sigref 0) vsource dc=0.45

XDUT (sigin_p sigin_n sigout_p sigout_n sigref) differential_gain_driver gain=2


simulatorOptions options evas_profile=balanced

tran tran stop=30n maxstep=25p
save sigin_n sigin_p sigout_n sigout_p sigref
