simulator lang=spectre
global 0

ahdl_include "./dut/divide_by_two_toggle.va"

Vclk (clk 0) vsource type=pwl wave=[0 0 0.35n 0 0.37n 0.9 0.55n 0.9 0.57n 0 1.15n 0 1.17n 0.9 1.35n 0.9 1.37n 0 1.95n 0 1.97n 0.9 2.15n 0.9 2.17n 0 2.75n 0 2.77n 0.9 2.95n 0.9 2.97n 0 3.55n 0 3.57n 0.9 3.75n 0.9 3.77n 0 4.2n 0]
XDUT (clk out) divide_by_two_toggle

simulatorOptions options evas_profile=balanced

tran tran stop=4.0n maxstep=5p
save clk out
