simulator lang=spectre
global 0

ahdl_include "./dut/dcc_top.va"
ahdl_include "./dut/duty_meter.va"
ahdl_include "./dut/trim_controller.va"
ahdl_include "./dut/delay_pair.va"

Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.1n 0 62n 0]
Venable (enable 0) vsource type=pwl wave=[0 0 4n 0 4.1n 0.9 50n 0.9 50.1n 0 62n 0]
Vclk_in (clk_in 0) vsource type=pulse val0=0 val1=0.9 delay=5.95n period=3n width=1.35n rise=50p fall=50p

XDUT (clk_in rst enable clk_out trim_3 trim_2 trim_1 trim_0 duty_metric locked) dcc_top tr=20p

simulatorOptions options evas_profile=balanced

tran tran stop=62n maxstep=20p
save clk_in rst enable clk_out trim_3 trim_2 trim_1 trim_0 duty_metric locked
