simulator lang=spectre
global 0

ahdl_include "./dut/element_shuffler.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=10n rise=200p fall=200p width=5n period=20n
Vrst (rst_n 0) vsource type=pwl wave=[0 0 8n 0 9n 0.9 134n 0.9 135n 0 144n 0 145n 0.9 225n 0.9]

XDUT (clk rst_n out0 out1 out2 out3) element_shuffler


simulatorOptions options evas_profile=balanced

tran tran stop=225n maxstep=200p
save clk rst_n out0 out1 out2 out3
