simulator lang=spectre
global 0

ahdl_include "./dut/fixed_frequency_oscillator_source.va"

Venable (enable 0) vsource type=pwl wave=[0 0 5n 0 5.2n 0.9 54n 0.9 54.2n 0 64n 0 64.2n 0.9 92n 0.9]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.2n 0 92n 0]
XDUT (enable rst osc_out period_metric valid) fixed_frequency_oscillator_source


simulatorOptions options evas_profile=balanced

tran tran stop=92n maxstep=200p
save enable rst osc_out period_metric valid
